US08492378B2
2-methoxy-5-[3-[4-(trifluoromethoxy)phenyl]-1-benzofuran-5-yl]-1,3,4-oxadiazole
In the same manner as in Example 110 and using 2-(methylsulfonyl)-5-[3-[4-(trifluoromethoxy)phenyl]-1-benzofuran-5-yl]-1,3,4-oxadiazole instead of 2-(2,3-dihydro-1-benzofuran-5-yl)-5-(methylsulfonyl)-1,3,4-oxadiazole and using methanol instead of 3-fluorobenzyl alcohol, the title compound (yield 4%) was obtained as colorless crystals.

reactant | 2-(methylsulfonyl)-5-[3-[4-(trifluoromethoxy)phenyl]-1-benzofuran-5-yl]-1,3,4-oxadiazole | CS(=O)(=O)C=1OC(=NN1)C=1C=CC2=C(C(=CO2)C2=CC=C(C=C2)OC(F)(F)F)C1 | C18H11F3N2O5S
reactant | methanol | CO | CH4O
product | 2-methoxy-5-[3-[4-(trifluoromethoxy)phenyl]-1-benzofuran-5-yl]-1,3,4-oxadiazole | yield 4% | COC=1OC(=NN1)C=1C=CC2=C(C(=CO2)C2=CC=C(C=C2)OC(F)(F)F)C1 | C18H11F3N2O4
